Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ male, on Plavix, who presents to ___ 
___ on ___ with a mild TBI s/p fall with headstrike while
intoxicated.

Of note patient is a poor historian and still intoxicated at the
time of examination. History is given primarily by ED resident,
who obtained history from OSH. 

Patient reportedly had a fall down the stairs earlier this
evening while intoxicated. Patient is unable to recall the 
event,
and states that last thing he remembers is earlier in the day
being at home. The patient states that his son passed away
earlier in the month and since then he has been drinking
excessively. Patient is unable to recall his fall or events at
OSH. Patient denies headache, dizziness, nausea or vomiting. He
denies visual changes, or difficulties speaking. He denies new
weakness in extremities. He does endorse weakness in his RLE d/t
prior stroke. He denies CP or SOB. 

 
Past Medical History:
- Prior stroke
- HTN
- GERD
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
-------------
On admission:
-------------
T:97.1     BP:126/76     HR:74    RR:20    O2 Sat:93% RA

GCS at the scene: Unknown 

GCS upon Neurosurgery Evaluation:  15      

Time of evaluation: 2:00AM

Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: Superficial lacerations on scalp. Anasicoric R>L by .5mm,
EOMI, ___, TM. 
Neck: Supple
Extrem: warm and well perfused

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date (patient able 
to
state month and ___, but seemed a but unsure about year)

Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils slight anasicoric R>L, round and reactive to light.
Right 4-3mm, and Left 3.5-5mm
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Not tested
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Patient has right foot drop with ___ ___ 
from
prior stroke. Otherwise all else, Strength full power ___
throughout. No pronator drift

Sensation: Intact to light touch

-------------
On discharge:
-------------
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
Deltoid    Bicep  Tricep  Grip

IPQuadHamATEHLGast
Right5        5       5       3       3        3

*Right foot weakness baseline from prior stroke 

[x]Sensation intact to light touch

 
Pertinent Results:
Please see OMR for pertinent results. 
 
Brief Hospital Course:
___ who presented s/p intoxicated fall with head strike and was 
found to have a left parietal IPH. He was admitted for 
monitoring and treatment. 

#IPH
Patient was admitted to the ___ for close monitoring. He was 
started on CIWA protocol due to intoxicated nature of fall. He 
was started on 1g Keppra for seizure prophylaxis. Head CT was 
repeated on ___ and was stable. He remained at his neurologic 
baseline and was discharged to home on ___.

#Coping
Social work was consulted for patient coping relating to the 
recent death of his son. On ___ the patient acknowledged 
willingness to speak with Social work but reported that he does 
see a counselor at home who helps with coping.
 
Medications on Admission:
- Cialis 20mg tab (frequency unknown)
- Zolpidem Tartrate 10mg tablet, 1 tab PO QHS prn 
- Nifedipine ER 30mg tablet, take 1 tab PO daily
- Ranitidine 300mg capsule, 1 cap BID
- Pravastatin Sodium 40mg tablet, take 1 tab PO daily
- Lisinopril 40mg tablet, take 1 tab PO daily
- Clopidogrel 75mg tablet, take 1 tab PO daily

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
Do not exceed 4g/day.  
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line  
3.  Docusate Sodium 100 mg PO BID  
4.  FoLIC Acid 1 mg PO DAILY  
5.  LevETIRAcetam 1000 mg PO BID Duration: 7 Days 
Last dose ___. 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*13 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
7.  Thiamine 100 mg PO DAILY  
8.  Lisinopril 40 mg PO DAILY  
9.  NIFEdipine (Extended Release) 30 mg PO DAILY  
10.  Pravastatin 40 mg PO QPM  
11.  Ranitidine 300 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
IPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Traumatic Brain Injury

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
•Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
•You were given information about headaches after TBI and the 
impact that TBI can have on your family.
•If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___